US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-(diisopropylsulfamoyl)-α,α-dimethyl-1,2-benzisothiazole-3-acetamide
N,N-dimethylformamide (8 drops) is added to a mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid (0.800 g, 0.00194 mol) and methylene chloride. The mixture is cooled on an ice bath and oxalyl chloride (2.0 M in methylene chloride, 2.42 ml, 0.00485 mol) is added. The resultant mixture is stirred one hour on an ice bath and concentrated in vacuo. The residue is taken up in tetrahydrofuran. N,N-Diisopropylaminosulfonamide (0.410 g, 0.00278 mol), ethyldiisopropylamine (0.310 g, 0.00240 mol) and dimethylaminopyridine (0.0100 g) are added and the resultant mixture is stirred overnight at room temperature. The mixture is then filtered and the filtrate is concentrated in vacuo to afford a yellow resin. The resin is filtered through silica gel to afford the title compound as a tan resin (0.500 g, 44.8%).

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-α,α-dimethyl-1,2-benzisothiazole-3-acetic acid | 0.00194 mol, 0.800 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)O)(C)C)C1)=O | C17H14F3N3O4S
reactant | oxalyl chloride | 0.00485 mol, 2.0 M, 2.42 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-Diisopropylaminosulfonamide | 0.00278 mol, 0.410 g | C(C)(C)NN(S(=O)=O)NC(C)C | C6H17N3O2S
reactant | ethyldiisopropylamine | 0.00240 mol, 0.310 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethylaminopyridine | 0.0100 g | CN(C)C1=NC=CC=C1 | C7H10N2
catalyst | N,N-dimethylformamide | 8 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-(diisopropylsulfamoyl)-α,α-dimethyl-1,2-benzisothiazole-3-acetamide | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)NS(N(C(C)C)C(C)C)(=O)=O)(C)C)C1)=O | C23H28F3N5O5S2
